US06294580B1
3-furan-2-yl-5-methylpyrazole
To a solution of 1.07 g (7.03 mmol) of 1-(2-furyl)-1,3-butanedione in 26 mL of MeOH at 25° C. was added 0.442 mL (14.07 mmol) of hydrazine. The reaction was stirred for 24 h then concentrated in vacuo. The residue was purified by silica gel flash column chromatography using hexanes/EtOAc (1:1) as eluent to give 1.02 g (98%) of title compound: low resolution MS (Cl) m/e 149 (MH+).

reactant | 1-(2-furyl)-1,3-butanedione | 7.03 mmol, 1.07 g | O1C(=CC=C1)C(CC(C)=O)=O | C8H8O3
reactant | hydrazine | 14.07 mmol, 0.442 mL | NN | H4N2
solvent | MeOH | 26 mL | CO | CH4O
product | 3-furan-2-yl-5-methylpyrazole | 1.02 g, 98% | O1C(=CC=C1)C1=NNC(=C1)C | C8H8N2O
